US08471005B2
Into a 50 ml, flask, 3-(3-Bromo-phenyl)-propionitrile (2.00 g, 9.52 mmol), 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (3.63 g, 14.3 mmol), Bis(tricyclohexylphosphine)palladium (0) (320 mg, 0.48 mmol) and Potassium acetate (1.40 g, 14.3 mmol) were added. The mixture was purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (30 mL) was added and heated at 100° C. overnight. The solid was filtered through Celite. The solvent was removed under vacuum to give 3-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionitrile as an oil. The product was used as is without further purification.

reactant | 3-(3-Bromo-phenyl)-propionitrile | 9.52 mmol, 2.00 g | BrC=1C=C(C=CC1)CCC#N | C9H8BrN
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 14.3 mmol, 3.63 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Potassium acetate | 14.3 mmol, 1.40 g | C(C)(=O)[O-].[K+]
catalyst | Bis(tricyclohexylphosphine)palladium (0) | 0.48 mmol, 320 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Pd]
product | 3-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CCC#N)C | C15H20BNO2
